US09371319B2
Preparation 132: 2-Chloro-5-(1-methyl-1H-pyrazol-4-yl)aniline
To a mixture of 3-amino-4-chlorophenylboronic acid pinacol ester (0.110 g, 0.434 mmol), 4-bromo-1-methylpyrazole (0.087 g, 0.54 mmol), 1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) DCM complex (24 mg, 0.029 mmol) was added anhydrous DME (2.5 mL) followed by 1M aqueous sodium carbonate (0.99 mL, 0.99 mmol). The microwave vial was heated at 150° C. for 20 minutes under microwave irradiation. Further catalyst (0.005 g) was added and the vial was heated at 130° C. for 10 minutes under microwave irradiation. The reaction mixture was partitioned between ethyl acetate (55 mL) and a saturated aqueous NaHCO3 solution (15 mL). The organic layer was washed with a saturated aqueous NaHCO3 solution (2×13 mL), dried (Na2SO4) and concentrated in vacuo. This residue was purified using preparative TLC eluting with 30% ethyl acetate in CH2Cl2. The product band was recovered and stirred with 2% MeOH in ethyl acetate/CH2Cl2 (v/v; 1:3) (20 mL). The silica was removed by filtration, washed with ethyl acetate/CH2Cl2 (v/v; 1:3) (2×5 mL) and acetone (3×4 mL) to give the title compound as an off-white solid (0.040 g, 44%). 1H-NMR (500 MHz, DMSO-d6) 3.84 (s, 3H), 5.29 (s, 2H), 6.72 (dd, J=2.1, 8.2 Hz, 1H), 6.94 (d, J=2.1 Hz, 1H), 7.14 (d, J=8.2 Hz, 1H), 7.68 (d, J=0.7 Hz, 1H), 7.98 (s, 1H).

reactant | 3-amino-4-chlorophenylboronic acid pinacol ester | 0.434 mmol, 0.110 g | NC=1C=C(C=CC1Cl)B1OC(C)(C)C(C)(C)O1 | C12H17BClNO2
reactant | 4-bromo-1-methylpyrazole | 0.54 mmol, 0.087 g | BrC=1C=NN(C1)C | C4H5BrN2
reactant | sodium carbonate | 0.99 mmol, 1M, 0.99 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | DME | 2.5 mL | COCCOC | C4H10O2
product | 2-Chloro-5-(1-methyl-1H-pyrazol-4-yl)aniline | 0.040 g, 44% | ClC1=C(N)C=C(C=C1)C=1C=NN(C1)C | C10H10ClN3
